* Test DC mode support for DERIV Measures. This bug covers:
*
*   1) The case of one variable (vsrc1) on the .DC line,
*      with one variable (vsrc2) in the .STEP statement.
*
*   2) The DC values of the swept variable (vsrc1) are monotonically
*      decreasing.
*
* See SON Bug 1282 for more details.
****************************************************************

V1 1 0 1
R1 1 0 1

E2 2 0 VALUE={V(1)*V(1)}
R2a 2 2a 2
R2b 2a 0 2

E3 3 0 VALUE={(V(2a)-5)*(V(2a)-5)}
R3 3 0 3

.DC V1 5 1 -1
.STEP R2b 2 4 2
.PRINT DC V(1) V(2a) V(3) I(R2b)

* DERIV
.MEASURE DC DERIVV2AT2.5 DERIV V(2a) AT=2.5

* test AT value at start of sweep
.MEASURE DC DERIVV2AT1 DERIVATIVE V(2a) AT=1

* WHEN syntaxes
.MEASURE DC DERIVV2WHEN10 deriv V(2a) WHEN V(2a)=10

* Expressions in WHEN clause
.MEASURE DC derivExp1 DERIV V(2a) when v(2a)={2*v(1)}
.MEASURE DC derivExp2 DERIV V(2a) when {v(2a)+1}=6
.MEASURE DC derivExp3 DERIV V(2a) when v(2a)={3+2}
.MEASURE DC derivExp4 DERIV V(2a) when v(2a)={v(1)+6}

* Expression in DERIV clause
.MEASURE DC derivExp5 DERIV {V(1)-V(2a)} when v(2a)=10

* FROM
.MEASURE DC from1 DERIV V(3) WHEN V(3)=10
.MEASURE DC from2 DERIV V(3) WHEN V(3)=10 FROM=2.5

* These should get the same answer
.MEASURE DC from3 DERIV V(3) WHEN V(3)=5 FROM=2 TO=4
.MEASURE DC from4 DERIV V(3) WHEN V(3)=5 TO=2  FROM=4

* lead current
.MEASURE DC derivir2at2.5 deriv I(R2b) AT=2.5

* measures should fail
.measure dc FAIL1 DERIV v(2a) WHEN v(3)=200
.measure dc FAIL2 DERIV v(2a) AT=10

* Test case of both FROM and TO given, but both are outside of the
* measurement window
.measure dc FAIL3 DERIV v(2a) WHEN v(2a)=2 FROM=6 TO=10
.measure dc FAIL4 DERIV v(2a) WHEN v(2a)=2 FROM=-5 TO=0

* Tests should return -1 or -100
.measure dc derivRetNeg1 deriv v(1) AT=10
.measure dc derivReturnNeg100 deriv v(1) when v(1)=10 DEFAULT_VAL=-100

* Signifies end of test. .sh file looks for a measure named lastMeasure.
* This is needed for compatibility for testing with a verbose build, which
* is often used by the Xyce developers.
.measure dc lastMeasure max v(2a)

.end
